US03981932
A mixture of 15.3 g. (0.05 moles) of ethyl 3-nitro-4-cyclohexylphenylglyoxylate in 100 ml. methanol containing 0.05 mole citric acid and 1.5 g. of 5% palladium-on-carbon is shaken with hydrogen at 3 atm. pressure and 27°C until 3 moles of hydrogen are absorbed. The mixture is filtered, washed with methanol and the filtrate concentrated in vacuo to obtain ethyl 3-amino-4-cyclohexylphenylglyoxylate, isolated as the citrate salt.

reactant | ethyl 3-nitro-4-cyclohexylphenylglyoxylate | 0.05 moles | [N+](=O)([O-])C=1C=C(C=CC1C1CCCCC1)C(C(=O)OCC)=O | C16H19NO5
reactant | methanol | 0.05 mole | CO | CH4O
reactant | hydrogen | [H][H] | H2
reactant | hydrogen | 3 moles | [H][H] | H2
catalyst | palladium-on-carbon | [Pd] | Pd
product | ethyl 3-amino-4-cyclohexylphenylglyoxylate | NC=1C=C(C=CC1C1CCCCC1)C(C(=O)OCC)=O | C16H21NO3
